US04607046
To a suspension of 0.96 g of 50% sodium hydride in 50 ml of dry acetonitrile was added 1.3 g of imidazole at room temperature, and then the mixture was stirred for 30 min. A solution of 5.38 g of ethyl p-bromomethylcinnamate in 20 ml of dry acetonitrile was added to the mixture at room temperature for 10 min, and then the mixture was stirred at the same temperature for 1 hr. After concentration under reduced pressure, the residue was dissolved in 100 ml of benzene and washed with water and dried. The solvent was evaporated and the residual oil was chromatographed on silica gel using chloroform, and the resulting crystals were recrystallized from diethyl ether to give 3.4 g of ethyl 4-(1-imidazolylmethyl)cinnamate. This compound was added to 30 ml of 80% aqueous ethanol containing 0.8 g of sodium hydroxide and the mixture was stirred for 4 hr at room temperature. After concentration and reduced pressure, 25 ml of water was added to the residue and the mixture was washed with diethyl ether. The mixture was adjusted to pH 1 to 2 by an addition of concentrated hydrochloric acid and the acidic solution was concentrated under reduced pressure. To the residue, 30 ml of 2-methyl-2-propanol was added and the mixture was evaporated again, and the residue was dissolved in 80 ml of ethanol and the insoluble materials were filtered off. The filtrate was evaporated to obtain 3.4 g of crude 4-(1-imidazolylmethyl)cinnamic acid hydrochloride.

reactant | sodium hydride | 0.96 g | [H-].[Na+]
reactant | imidazole | 1.3 g | N1C=NC=C1 | C3H4N2
reactant | ethyl p-bromomethylcinnamate | 5.38 g | BrCC1=CC=C(C=CC(=O)OCC)C=C1 | C12H13BrO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | ethyl 4-(1-imidazolylmethyl)cinnamate | 3.4 g | N1C(=NC=C1)CC1=CC=C(C=CC(=O)OCC)C=C1 | C15H16N2O2
